US03989714
3-(3,4-Dimethoxyphenyl)hexahydro-1-hydroxy-7a-methyl-indoline
A volume of 10 ml of 3M methyl magnesium bromide in ether was added over a period of two minutes to a stirred solution of 4.12 g (0.015 mole) of 3,3a,4,5,6,7-hexahydro-3-(3,4-dimethoxyphenyl)-2H-indole 1-oxide in 25 ml of tetrahydrofuran. The warm solution was stirred for 1/2 hour at room temperature and then added cautiously to 50 ml of ice water. The mixture was stirred for 5 minutes and solid potassium carbonate was added to saturate. The mixture was extracted into 200 ml of ether and the extract was decanted, dried over K2CO3, filtered and concentrated to ca 50 ml volume. The separated crystals were filtered and washed with ether; wt. 2.5 g, mp 147°-149° C. A second crop weighing 0.6 g was obtained for a total weight of 3.1 g (71% yield). The product was recrystallized from ethyl acetate to give pure white crystals melting at 147°-149° C.

reactant | methyl magnesium bromide | 3M, 10 ml | C[Mg]Br
reactant | 3,3a,4,5,6,7-hexahydro-3-(3,4-dimethoxyphenyl)-2H-indole 1-oxide | 0.015 mole, 4.12 g | COC=1C=C(C=CC1OC)C1C[N+](=C2CCCCC12)[O-] | C16H21NO3
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 3-(3,4-Dimethoxyphenyl)hexahydro-1-hydroxy-7a-methyl-indoline | 71% yield | COC=1C=C(C=CC1OC)C1CN(C2(CCCCC12)C)O | C17H25NO3
